US04461906
2.0 g of 1-(3-benzyloxy-4-methoxybenzoyl)-2-pyrrolidinone are hydrogenated in 60 ml of absolute methanol with 0.5 g of 5% palladium/carbon under atmospheric pressure and at room temperature. The catalyst is filtered off and the filtrate is concentrated and stirred with diethyl ether. After filtration, there is obtained 1-(3-hydroxy-4-methoxybenzoyl)-2-pyrrolidinone of melting point 123°-125° C.

reactant | 1-(3-benzyloxy-4-methoxybenzoyl)-2-pyrrolidinone | 2.0 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)N2C(CCC2)=O)C=CC1OC | C19H19NO4
solvent | methanol | 60 ml | CO | CH4O
catalyst | palladium/carbon | 0.5 g | [Pd] | Pd
product | 1-(3-hydroxy-4-methoxybenzoyl)-2-pyrrolidinone | OC=1C=C(C(=O)N2C(CCC2)=O)C=CC1OC | C12H13NO4
